US07541374B2
0.76 g of 1-(chloromethyl)-1H-pyrazole hydrochloride and 0.81 g of (3,3,3-trifluoropropyl)malononitrile were dissolved in 10 ml of N,N-dimethylformamide. 1.38 g of potassium carbonate was added to the solution under ice cooling with stirring, followed by stirring at room temperature for 5 hours. Water was added to the reaction mixture, and then extracted with methyl-t-butyl ether (may be referred as MTBE, hereinafter) . The organic layer was washed with water, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was recrystallized from hexane-ethyl acetate to obtain 0.36 g of (1H-pyrazole-1-yl methyl) (3,3,3-trifluoropropyl) malononitrile (referred as the compound of the present invention (1), hereinafter) shown by below formula.

reactant | 1-(chloromethyl)-1H-pyrazole hydrochloride | 0.76 g | Cl.ClCN1N=CC=C1
reactant | (3,3,3-trifluoropropyl)malononitrile | 0.81 g | FC(CCC(C#N)C#N)(F)F | C6H5F3N2
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (1H-pyrazole-1-yl methyl) (3,3,3-trifluoropropyl) malononitrile | 0.36 g | N1(N=CC=C1)CC(C#N)(C#N)CCC(F)(F)F | C10H9F3N4
